US05658908
The product (25 mmol) was treated with 2M ethanolic hydrochloric acid (20 mL). The solvent was evaporated and the residue shaken with toluene and evaporated again to remove residual ethanol. The resulting yellow solid was suspended in dichloromethane, 2.7 mL (37.5 mmol) of thionyl chloride was added, and the mixture was stirred at room temperature for one hour. The solvent was evaporated, and the residue was taken up in toluene and evaporated again to drive off the excess thionyl chloride. The crude product (approximately 25 mmol) was then treated with trans-2,5-dimethylpiperazine (28.5 g, 0.25 mol) in toluene as described in Example1. The product was purified by chromatography on silica gel (Waters Prep 500, dichloromethane:ethanol: triethylamine/100:1.5-3:0.1), to give 3.71 g (38%) of (±)-4-α-(trans-2,5-dimethyl-1-piperazinyl)-3-aminobenzyl)-N,N-diethyl -benzamide as a yellow solid.

reactant | hydrochloric acid | 2M, 20 mL | Cl | ClH
reactant | thionyl chloride | 37.5 mmol, 2.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | trans-2,5-dimethylpiperazine | 0.25 mol, 28.5 g | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl -benzamide | C(C)N(C(C1=CC=CC=C1)=O)CC | C11H15NO
